US07238839B2
2-Methoxy-5-(2-oxopropyl)-benzene sulfonamide (37.3 gm, 153.3 mmol), 2-(2-ethoxyphenoxy)-1-ethanamine (29.8 gm, 164.4 mmol) and methanol (250 mL) were taken into a one liter stainless steel flask and mixed well. Catalyst Raney nickel (8 gm) was added to the flask and the mixture hydrogenated at 50° C. at hydrogen pressure of 40 psi for 30 hrs. The catalyst was removed by filtration and solvent from the filtrate was distilled off completely at 50° C. under vacuum. The dark brown crude obtained was treated with methanolic hydrochloric acid (175 mL) at 0-5° C. under stirring. Tamsulosin hydrochloride formed as a solid was filtered, washed with ethyl acetate (200 mL), suspended in methanol (120 mL) and the methanol slurry filtered to obtain off white solid material. It was dried for 3 hrs at 80° C. to give racemic tamsulosin hydrochloride. Melting point 255-257° C., chemical purity of 98.8 area % (by HPLC) and R,S ratio of 51.45:48.55 (by chiral HPLC).

reactant | 2-Methoxy-5-(2-oxopropyl)-benzene sulfonamide | 153.3 mmol, 37.3 gm | COC1=C(C=C(C=C1)CC(C)=O)S(=O)(=O)N | C10H13NO4S
reactant | 2-(2-ethoxyphenoxy)-1-ethanamine | 164.4 mmol, 29.8 gm | C(C)OC1=C(OCCN)C=CC=C1 | C10H15NO2
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 175 mL | Cl | ClH
catalyst | Raney nickel | 8 gm | [Ni] | Ni
solvent | methanol | 250 mL | CO | CH4O
product | Tamsulosin hydrochloride | CCOC=1C=CC=CC1OCCN[C@H](C)CC=2C=CC(=C(C2)S(=O)(=O)N)OC.Cl | InChI=1S/C20H28N2O5S.ClH/c1-4-26-17-7-5-6-8-18(17)27-12-11-22-15(2)13-16-9-10-19(25-3)20(14-16)28(21,23)24;/h5-10,14-15,22H,4,11-13H2,1-3H3,(H2,21,23,24);1H/t15-;/m1./s1
